US05688954
A stirred solution of potassium tert-butoxide (83.55 g) in tetrahydrofuran (500 ml) under nitrogen at room temperature is treated with a solution of methyl nicotinate (68.5 g) and delta-valerolactone (75.0 g) in tetrahydrofuran (125 ml), continuously during 1 hour, maintaining the temperature between 22° C. and 32° C. The mixture is stirred for 2 hours and is then treated with water (750 ml). The resulting mixture is washed with xylene (125 ml) and the aqueous layer is then treated with concentrated hydrochloric acid (400 ml) during a period of 15 minutes, maintaining the temperature between 23° C. and 44° C. The solution is stirred for 90 minutes and then the solution is washed with dichloromethane (250 ml). The aqueous layer is basified to pH8-pH9 by treatment with aqueous sodium hydroxide solution (specific gravity 1.3; 480 ml) and then it is washed with xylene* (125 ml) and extracted with dichloromethane (3×250 ml). The combined dichloromethane extracts are dried over magnesium sulphate and the solvent is removed by evaporation under reduced pressure, to give 4-hydroxybutyl 3-pyridyl ketone (49.1 g), in the form of a yellow oil which crystallises to form a pale brown solid, m.p. 36°-38° C. [NMR (CDCl3): 1.7(m,2H), 1.9(m,2H), 3.1(t,2H); 3.7(t,2H), 7.4(m,1H), 8.2(dt,1H), 8.8(m,1H), 9.2(m,1H)].

reactant | potassium tert-butoxide | 83.55 g | CC(C)([O-])C.[K+]
reactant | methyl nicotinate | 68.5 g | C(C1=CN=CC=C1)(=O)OC | C7H7NO2
reactant | delta-valerolactone | 75.0 g | C1(CCCCO1)=O | C5H8O2
reactant | water | 750 ml | O | H2O
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 125 ml | O1CCCC1 | C4H8O
product | 4-hydroxybutyl 3-pyridyl ketone | 49.1 g | N1=CC(=CC=C1)C(=O)CCCCO | C10H13NO2
